US09212172B2
Bazedoxifene free base (2 g) and acetone (20 mL) are mixed and heated to 45-50° C. to produce a clear solution, which is filtered. The filtrate is cooled to 25-35° C. and seed crystals (20 mg) are added, followed by drop-wise addition of acetic acid (0.26 g). n-Heptane (50 mL) is added drop-wise over 30 minutes. The formed solid is collected by filtration, sequentially washed with n-heptane (10 mL), and then suction dried for 5 minutes. The wet solid is dried under vacuum at 70° C. for about 4-5 hours to afford 1.5 g of crystalline bazedoxifene acetate Form D.

reactant | Bazedoxifene | 2 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
reactant | acetone | 20 mL | CC(=O)C | C3H6O
product | bazedoxifene acetate | 1.5 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O.CC(=O)O | InChI=1S/C30H34N2O3.C2H4O2/c1-22-28-20-26(34)12-15-29(28)32(30(22)24-8-10-25(33)11-9-24)21-23-6-13-27(14-7-23)35-19-18-31-16-4-2-3-5-17-31;1-2(3)4/h6-15,20,33-34H,2-5,16-19,21H2,1H3;1H3,(H,3,4)
